US06437147B1
In a 350 ml steel autoclave with teflon insert was placed 1H-benzimidazole-5-carboxylic acid (10 g, 61.7 mmol), 50% aqueous acetic acid (160 ml), 35% aqueous HCl solution (7 ml) and 6 g Rh/C (5%). The reaction mixture was hydrogenated at 60 bar H2 at 120° C. for 24 hours. After cooling and filtration through Celite, the filtrate was evaporated to dryness and the residue further dried under reduced pressure. The residue was mixed with methanol (200 ml) and (9 ml, 0.123 mol) thionyl chloride and heated at 80° C. for 2 hours. After cooling, the reaction mixture was evaporated to dryness and the white solid further dried under reduced pressure to yield 13.6 g (92%) of 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid methyl ester hydrochloride. The hydrochloride was treated with saturated sodium hydrogen carbonate solution (300 ml) and extracted with DCM (3×300 ml) to obtain 10.8 g (81%) of 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid methyl ester as a white solid.

reactant | 1H-benzimidazole-5-carboxylic acid | 61.7 mmol, 10 g | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | acetic acid | 160 ml | C(C)(=O)O | C2H4O2
reactant | HCl | 7 ml | Cl | ClH
reactant | thionyl chloride | 0.123 mol, 9 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | Rh/C | 6 g | [Rh] | Rh
solvent | methanol | 200 ml | CO | CH4O
product | 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid methyl ester hydrochloride | 13.6 g, 92% | Cl.COC(=O)C1CC2=C(NC=N2)CC1 | InChI=1S/C9H12N2O2.ClH/c1-13-9(12)6-2-3-7-8(4-6)11-5-10-7;/h5-6H,2-4H2,1H3,(H,10,11);1H
